US08497281B2
Step 3: 3-(3-methoxy-phenyl)-pyridine-2-carbonyl chloride
Thionyl chloride (8 mL) and N,N-dimethylformamide (few drops) are added to a solution of 3-(3-methoxy-phenyl)-pyridine-2-carboxylic acid (11.86 g) in dichloromethane (80 mL). The mixture is heated to 40° C. and stirred at this temperature overnight. The solution is then concentrated and the residue is taken up in toluene and concentrated again to give the crude title compound that is used without further purification in the next step. Yield: 12.80 g (crude).

reactant | Thionyl chloride | 8 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | 3-(3-methoxy-phenyl)-pyridine-2-carboxylic acid | 11.86 g | COC=1C=C(C=CC1)C=1C(=NC=CC1)C(=O)O | C13H11NO3
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 3-(3-methoxy-phenyl)-pyridine-2-carbonyl chloride | COC=1C=C(C=CC1)C=1C(=NC=CC1)C(=O)Cl | C13H10ClNO2
